US03957782
f. 6-Ethoxy-1-ethyl-N-2-thiazolyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxamide
A mixture of 15.3 g. of 6-ethoxy-1-ethyl-1H-pyrazolo-[3,4-b]pyrazine-5-carbonyl chloride (0.06 mol.), 6.6 g. of 2-amino-thiazole (0.66 mol.) and 9.1 ml. of triethylamine (0.66 mol.) in 400 ml. of dry benzene are refluxed for 21/2 hours. After cooling the reaction mixture, the precipitated triethylamine hydrochloride is filtered off and the filtrate is evaporated to dryness. The crude 6-ethoxy-1-ethyl -N-2-thiazolyl-1H-pyrazolo-[3,4-b]pyrazine-5-carboxamide is recrystallized from ethyl acetate, m.p. 151°-152°, yield 9.9 g. (52 %).

reactant | 6-ethoxy-1-ethyl-1H-pyrazolo-[3,4-b]pyrazine-5-carbonyl chloride | 0.06 mol | C(C)OC1=C(N=C2C(=N1)N(N=C2)CC)C(=O)Cl | C10H11ClN4O2
reactant | 2-amino-thiazole | 0.66 mol | NC=1SC=CN1 | C3H4N2S
reactant | triethylamine | 0.66 mol | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 6-Ethoxy-1-ethyl-N-2-thiazolyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxamide | C(C)OC1=C(N=C2C(=N1)N(N=C2)CC)C(=O)NC=2SC=CN2 | C13H14N6O2S
